*
* NGSPICE simulation script
*Title: t2.1
*

* forces current values to be saved
.options savecurrents


*voltage sources
Vs 1 0 5.18937402699V

Vnull 0 0b 0.V

Hvd 5 8 Vnull 8.32372114868kOhm


*current sources
Gib 6 3 2 5 7.32338601881mS

*capacitor
C 6 8 1.00970251859uF


*resistors
R1 1 2 1.02738610688kOhm

R2 3 2 2.03394761163kOhm

R3  2 5 3.13880655715kOhm

R4 5 0 4.00338881943kOhm

R5 6 5 3.07163426496kOhm

R6 0b 7 2.05278260557kOhm

R7 7 8 1.01283324471kOhm

.op
.end


*Control comands
.control
op
echo  "op_TAB"
*print @Vs[i] @Hvd[i] 
print all
print v(6,8)
echo  "op_END"

.endc
